US08076332B2
N-(2-t-Butoxycarbonylaminophenyl)-4-methoxycarbonylbenzamide (Reference Compound No. 2-1)
Under ice cooling, terephthalic acid monomethylester chloride (1.1 g, 5.0 mmol) was added to a solution of 2-aminophenylcarbamic acid t-butyl ester (Reference Compound No. 1-1, 1.1 g, 5.0 mmol) and triethylamine (30 mL) in dichloromethane (15 mL), and then the mixture was stirred at room temperature for 4 hours. Water (50 mL) was added thereto, and the whole was extracted with ethyl acetate (40 mL) twice. The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The resulting solid was collected by filtration with a mixed solvent (hexane (10 mL) and ethyl acetate (5 mL)), and the whole was dried under reduced pressure to give 1.8 g of the title reference compound as a white solid. (Yield 99%)

reactant | terephthalic acid monomethylester chloride | 5.0 mmol, 1.1 g | [Cl-].COC(C1=CC=C(C(=O)O)C=C1)=O
reactant | 2-aminophenylcarbamic acid t-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC=C1)N)=O | C11H16N2O2
reactant | triethylamine | 30 mL | C(C)N(CC)CC | C6H15N
reactant | Water | 50 mL | O | H2O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | N-(2-t-Butoxycarbonylaminophenyl)-4-methoxycarbonylbenzamide | Yield 99% | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)NC(C1=CC=C(C=C1)C(=O)OC)=O | C20H22N2O5
